US05306849
200 ml of anhydrous hydrogen fluoride were placed at 0° C. in a stainless steel laboratory autoclave and 100 g of 2,6-dimethylphenyl fluoroformate were added dropwise. The autoclave was sealed and heated at a maximum temperature of 140° C. for 1.5 hours. The reaction mixture was worked up as described in Example 9. 2,6-Dimethylfluorobenzene was obtained in a yield of 75%.

reactant | 2,6-dimethylphenyl fluoroformate | 100 g | FC(=O)OC1=C(C=CC=C1C)C | C9H9FO2
reactant | hydrogen fluoride | 200 ml | F | FH
product | 2,6-Dimethylfluorobenzene | yield of 75% | CC1=C(C(=CC=C1)C)F | C8H9F
